US06649600B1
{2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid
To a solution of {2-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid diethyl ester (30 mg, 59 μmol) in CH2Cl2 (8 ml) was added TMSBr (excess) and the resulting mixture was stirred at rt overnight. Additional TMSBr was added and the reaction was heated at 55° C. for 6 h. The solvent was removed in vacuo to give an orange solid whose color was discharged upon trituration with water. The material was collected, washed with water and dried (20 mg, 77%). MS: 453 (MH+).

reactant | {2-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid diethyl ester | 59 μmol, 30 mg | C(C)OP(OCC)(=O)CCC12CCC(CC1)(CC2)C2=NC=1N(C(N(C(C1N2)=O)CCC)=O)CCC | C25H41N4O5P
reactant | TMSBr | C[Si](C)(C)Br | C3H9BrSi
reactant | water | O | H2O
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | {2-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-ethyl}-phosphonic acid | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCP(O)(O)=O)=O)CCC | C21H33N4O5P
